US06903085B1
(3-Phenyl-1H-1,2,4-triazol-5-yl)acetic acid (0.020 g) and N,N′-carbonyl diimidazole (0.016 g) in dichloromethane was stirred under nitrogen for 3 minutes. 1-(3,4-Dichlorobenzyl)-4-piperidinamine hydrochloride (0.031 g) and triethylamine (0.036 g) was then added and allowed to stir for 1 hour under nitrogen. Saturated sodium hydrogen carbonate was added to the reaction with the resulting solution being extracted three times with dichloromethane. The pooled organic phases were washed once with water, once with brine, dried over magnesium sulfate, filtered and the solvent removed under reduced pressure to a white solid. This was purified by RPHPLC (75%-5%, 0.1% ammonium acetate/acetonitrile). Saturated sodium hydrogen carbonate was added to the pooled collected fractions with the resulting solution being extracted three times with dichloromethane. The pooled organic phases were washed once with water, once with brine, dried over magnesium sulfate, filtered and the solvent removed under reduced pressure to leave N-[1-(3,4-dichlorobenzyl)-4-piperidinyl]-2-(3-phenyl-1H-1,2,4-triazol-5-yl)acetamide(0.031 g).

reactant | (3-Phenyl-1H-1,2,4-triazol-5-yl)acetic acid | 0.020 g | C1(=CC=CC=C1)C1=NNC(=N1)CC(=O)O | C10H9N3O2
reactant | 1-(3,4-Dichlorobenzyl)-4-piperidinamine hydrochloride | 0.031 g | Cl.ClC=1C=C(CN2CCC(CC2)N)C=CC1Cl
reactant | triethylamine | 0.036 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[1-(3,4-dichlorobenzyl)-4-piperidinyl]-2-(3-phenyl-1H-1,2,4-triazol-5-yl)acetamide | 0.031 g | ClC=1C=C(CN2CCC(CC2)NC(CC2=NC(=NN2)C2=CC=CC=C2)=O)C=CC1Cl | C22H23Cl2N5O
